US05563151
Sodium hydride (60% dispersion in oil: 4.5 g, 0.11 mol) was added to a stirred solution of L-leucinol (12.8 ml, 0.10 mol) in a mixture of dry acetonitrile (24 ml) and dry THF (200 ml) at room temperature under argon. The mixture was heated at reflux for 2 h, cooled to 55° C. and ethyl iodide (8.2 ml, 0.10 mol) added carefully. The reaction mixture was heated at reflux overnight and allowed to cool to room temperature. Ice cold brine (100 ml) was added carefully and the mixture extracted with ethyl acetate (3×100 ml). The combined organic extracts were dried over anhydrous sodium sulphate, filtered and evaporated. The residue was distilled under reduced pressure to give L-leucinyl ethyl ether (4.5 g, 30%) as a colourless oil which was used directly in the next step.

reactant | Sodium hydride | 0.11 mol, 4.5 g | [H-].[Na+]
reactant | L-leucinol | 0.10 mol, 12.8 ml | N[C@@H](CC(C)C)CO | C6H15NO
reactant | acetonitrile | 24 ml | C(C)#N | C2H3N
reactant | ethyl iodide | 0.10 mol, 8.2 ml | C(C)I | C2H5I
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | L-leucinyl ethyl ether | 4.5 g, 30% | C(C)OC([C@@H](N)CC(C)C)=O | C8H17NO2
